US07749992B2
Synthesis of Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-phenyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add a solution of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.080 g, 0.134 mmol) in tetrahydrofuran (1 mL) to phenylboronic acid (0.024 g, 0.202 mmol), palladium acetate (0.0015 g, 0.0067 mmol), 2-(dicyclohexylphosphino)biphenyl (0.0047 g, 0.013 mmol) and potassium fluoride (0.023 g, 0.403 mmol) and purge with nitrogen and stir for 2 h at room temperature, then at 50° C. for 12 h. After this initial period, additional phenylboronic acid (0.024 g, 0.202 mol), palladium acetate (0.0015 g, 0.0067 mmol), 2-(dicyclohexylphosphino)biphenyl (0.0047 g, 0.013 mmol) and potassium fluoride (0.023 g, 0.403 mmol) is added and the reaction is heated at 50° C. for 1 h. Cool the reaction to room temperature and dilute with ethyl acetate (30 mL) and wash with 2 N sodium hydroxide and brine (10 mL each). Dry the organic layer over sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a white solid (0.058 g, 72%): ESI MS 593 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.134 mmol, 0.080 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Br | C25H25BrF6N2O3
reactant | phenylboronic acid | 0.202 mmol, 0.024 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.013 mmol, 0.0047 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | potassium fluoride | 0.403 mmol, 0.023 g | [F-].[K+]
reactant | phenylboronic acid | 0.202 mol, 0.024 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.013 mmol, 0.0047 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | potassium fluoride | 0.403 mmol, 0.023 g | [F-].[K+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.0067 mmol, 0.0015 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.0067 mmol, 0.0015 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-phenyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.058 g, 72% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)C2=CC=CC=C2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C31H30F6N2O3
